US04298529
Preparation of ethyl 2-methoxyimino-3,3-ethylenedioxybutyrate (syn isomer)
Thus obtained product can be led to 2-methoxyimino-3,3-ethylenedioxybutyric acid (syn isomer) or 2-methoxyimino-3,3-ethylenedioxy-4-chlorobutyric acid (syn isomer) or 2-methoxyimino-3,3-ethylenedioxy-4-bromobutyric acid (syn isomer) according to the manner described in Examples 1 or 2 or 3 or 4 or 5.

reactant | 2-methoxyimino-3,3-ethylenedioxybutyric acid | CON=C(C(=O)O)C1(C)OCCO1 | C7H11NO5
reactant | 2-methoxyimino-3,3-ethylenedioxy-4-chlorobutyric acid | CON=C(C(=O)O)C1(CCl)OCCO1 | C7H10ClNO5
reactant | 2-methoxyimino-3,3-ethylenedioxy-4-bromobutyric acid | CON=C(C(=O)O)C1(CBr)OCCO1 | C7H10BrNO5
product | ethyl 2-methoxyimino-3,3-ethylenedioxybutyrate | CON=C(C(=O)OCC)C1(C)OCCO1 | C9H15NO5
